US04898874
5-Chloro-7-[2-oxo-2-(1-piperidinyl)ethyl]-3-phenyl-2,1-benzisoxazole
The title compound is prepared by reacting the acid chloride of 5-chloro-3-phenyl-2,1-benzisoxazole-7-acetic acid with piperidine in an aprotic solvent and washing the reaction mixture with sodium bicarbonate solution.

reactant | 5-chloro-3-phenyl-2,1-benzisoxazole-7-acetic acid | ClC=1C=C(C=2C(=C(ON2)C2=CC=CC=C2)C1)CC(=O)O | C15H10ClNO3
reactant | piperidine | N1CCCCC1 | C5H11N
product | 5-Chloro-7-[2-oxo-2-(1-piperidinyl)ethyl]-3-phenyl-2,1-benzisoxazole | ClC=1C=C(C=2C(=C(ON2)C2=CC=CC=C2)C1)CC(N1CCCCC1)=O | C20H19ClN2O2
